US05593993
1.6M Butyl lithium in hexane (24 ml, 38.4 mmol) was added slowly (0.5 h) to a solution of 1-ethoxy-3-fluorobenzene (5.0 g, 35.7 mmol) in 100 ml of dry THF at -65° C. under nitrogen. The solution was stirred at -65° C. for 25 min. DMF (5.22 g, 71.4 mmol) was added dropwise to the solution. The mixture was allowed to warm to room temperature. 300 ml of ice was poured to this mixture and it was extracted with diethyl ether. Diethyl ether was washed with brine, dried over Na2SO4 and evaporated. The product was purified by silica gel column chromatography (EtOAc/petroleum ether 10:100) to give 2-ethoxy-6-fluorobenzaldehyde.

reactant | Butyl lithium | 1.6M | C(CCC)[Li]
reactant | hexane | 38.4 mmol, 24 ml | CCCCCC | C6H14
reactant | 1-ethoxy-3-fluorobenzene | 35.7 mmol, 5.0 g | C(C)OC1=CC(=CC=C1)F | C8H9FO
reactant | DMF | 71.4 mmol, 5.22 g | CN(C)C=O | C3H7NO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-ethoxy-6-fluorobenzaldehyde | C(C)OC1=C(C=O)C(=CC=C1)F | C9H9FO2
